US07935722B2
2-Chloromethyl-3-fluoro-pyridine
Dissolve (3-fluoro-pyridin-2-yl)-methanol (215 mg, 1.69 mmol) in dichloromethane (10 mL) and cool to 0° C. Add thionyl chloride (160 μL, 2.20 mmol) and stir the reaction for one hour. Add dichloromethane (50 mL) and stir the reaction with saturated aqueous sodium bicarbonate (2×40 mL) and brine (2×40 mL). Separate and dry the organic portion over magnesium sulfate, filter, and concentrate under reduced pressure to provide 198 mg (80%) of product, which is used without further purification. MS: m/z 146, 148 [C6H5ClFN+1]+; 1H NMR (300 MHz, CDCl3): δ 8.41-8.44 (m, 1H), 7.41-7.47 (m, 1H), 7.28-7.34 (m, 1H), 4.75 (d, J=2.0 Hz, 2H); 19F NMR (282 MHz, CDCl3): δ-123.8.

reactant | (3-fluoro-pyridin-2-yl)-methanol | 1.69 mmol, 215 mg | FC=1C(=NC=CC1)CO | C6H6FNO
reactant | thionyl chloride | 2.20 mmol, 160 μL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | brine | 40 mL | [Cl-].[Na+].O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-Chloromethyl-3-fluoro-pyridine | 198 mg, 80% | ClCC1=NC=CC=C1F | C6H5ClFN
